US04048311
When phthalimidomethanesulfonyl chloride is substituted in the procedure of Example 3 for 2-phthalimidoethanesulfonyl chloride, N-t-butylphthalimidomethanesulfonamide is prepared which is converted to 1-N-t-butylsulfamoylmethyltetrazole-5-thiol as described therein. Treatment of 1-N-t-butylsulfamoylmethyltetrazole-5-thiol with trifluoroacetic acid as described in Example 3 gives 1-sulfamoylmethyltetrazole-5-thiol.

reactant | phthalimidomethanesulfonyl chloride | C1(C=2C(C(N1CS(=O)(=O)Cl)=O)=CC=CC2)=O | C9H6ClNO4S
reactant | 2-phthalimidoethanesulfonyl chloride | C1(C=2C(C(N1CCS(=O)(=O)Cl)=O)=CC=CC2)=O | C10H8ClNO4S
reactant | N-t-butylphthalimidomethanesulfonamide | C(C)(C)(C)NS(=O)(=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C13H16N2O4S
reactant | 1-N-t-butylsulfamoylmethyltetrazole-5-thiol | C(C)(C)(C)NS(=O)(=O)CN1N=NN=C1S | C6H13N5O2S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-sulfamoylmethyltetrazole-5-thiol | S(N)(=O)(=O)CN1N=NN=C1S | C2H5N5O2S2
